US06262272B1
(4-Aminobenzyl)-methyl-carbamic acid tert-butyl ester
A Parr bottle was charged with (4-nitrobenzyl)-methy-carbarnic acid tert-butyl ester (30.0 g, 113 mmol), 150 mL EtOAc, and 10% Pd/C (3.0 g, 10 wt %), and shaken under 40 psi hydrogen for 90 min. When hydrogen uptake ceased, the reaction vessel was purged with nitrogen, filtered through celite, and concentrated to provide a tan solid, which was granulated with 300 mL of isopropyl ether to provide the title compound as an off-white solid (17.7 g in two crops, 75 mmol, 66% yield):

reactant | (4-nitrobenzyl)-methy-carbarnic acid tert-butyl ester | 113 mmol, 30.0 g | C(C)(C)(C)OC(N(C)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H18N2O4
reactant | hydrogen | [H][H] | H2
reactant | isopropyl ether | 300 mL | C(C)(C)OC(C)C | C6H14O
catalyst | Pd/C | 3.0 g | [Pd] | Pd
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | (4-Aminobenzyl)-methyl-carbamic acid tert-butyl ester | 75 mmol, 17.7 g, 66% yield | C(C)(C)(C)OC(N(C)CC1=CC=C(C=C1)N)=O | C13H20N2O2
